US05981551
Preparation of 2,5-bis[2-benzimidazolylimino]-3a,6a-bis(4-bromophenyl)-1,2,3,3a,4,5,6,6a-octahydroimidazo[4,5-d]imidazole
Following the procedure of Example 1, 4,4'-dibromobenzil (4.42 g, 12 mmol) and 2-guanidinobenzimidazole (1.75 g, 10 mmol) in methanol (100 mL) was treated with a solution of sodium hydroxide (400 mg, 10 mmol) in 10 mL of water. The title compound was isolated as pale yellow crystals (800 mg, 24% yield). mp: 274-278 ° C. (dec); MS (ESI) m/z 683 [M+H]+.

reactant | 4,4'-dibromobenzil | 12 mmol, 4.42 g | BrC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)Br | C14H8Br2O2
reactant | 2-guanidinobenzimidazole | 10 mmol, 1.75 g | N(C(=N)N)C=1NC2=C(N1)C=CC=C2 | C8H9N5
reactant | sodium hydroxide | 10 mmol, 400 mg | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 2,5-bis[2-benzimidazolylimino]-3a,6a-bis(4-bromophenyl)-1,2,3,3a,4,5,6,6a-octahydroimidazo[4,5-d]imidazole | N1=C(NC2=C1C=CC=C2)N=C2NC1(C(NC(N1)=NC=1NC3=C(N1)C=CC=C3)(N2)C2=CC=C(C=C2)Br)C2=CC=C(C=C2)Br | C30H22Br2N10
